US07977344B2
2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine
To a suspension of 2-chloro-1H-purin-6-amine (1.57 g) and potassium carbonate (2.57 g) in DMF (55 mL) was added 4-(bromomethyl)tetrahydro-2H-pyran (2.0 g) in one portion. The mixture was stirred at 90° C. overnight. The reaction mixture was taken up in chloroform/isopropanol (3:1, 100 mL) and was extracted with water (100 mL). The organics were separated and the aqueous was extracted with chloroform/isopropanol (3:1, 2×50 mL). The organics were combined, dried by passing through a hydrophobic frit and concentrated in vacuo to give the title compound as an off-white solid (1.30 g, 52%).

reactant | 2-chloro-1H-purin-6-amine | 1.57 g | ClC=1NC(=C2N=CN=C2N1)N | C5H4ClN5
reactant | potassium carbonate | 2.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(bromomethyl)tetrahydro-2H-pyran | 2.0 g | BrCC1CCOCC1 | C6H11BrO
solvent | DMF | 55 mL | CN(C)C=O | C3H7NO
solvent | chloroform isopropanol | 100 mL | C(Cl)(Cl)Cl.C(C)(C)O
product | 2-Chloro-9-(tetrahydro-2H-pyran-4-ylmethyl)-9H-purin-6-amine | 1.30 g, 52% | ClC1=NC(=C2N=CN(C2=N1)CC1CCOCC1)N | C11H14ClN5O
